US07618961B2
Methyl 2-[2-(2-amino-1,3-thiazol-4-yl)ethoxy]benzoate
Ethyl 2-aminothiazole-4-acetate (931 mg, 5.0 mmol) was dissolved in DCM (10 mL) and TEA (0.765 mL, 5.5 mmol). Trityl chloride (1.53 g, 5.5 mmol) was added in portions. The mixture was left overnight at room temp and filtered. The filtrate was evaporated and the product purified by flash-chromatography on silica gel using 20% ethyl acetate/toluene as eluent: 1H NMR (CDCl3) δ 7.2-7.4 (m), 6.6 (s, 1H), 6.15 (s, 1H), 4.2 (q, 2H), 3.5 (s, 2H), 1.3 (t, 3H). A solution of the tritylated ethylester (5 mmol) in THF (18 mL) was added to lithium aluminiumborohydride (1.00 g, 26 mmol) in THF (100 mL) under cooling in ice. The mixture was stirred overnight at room temperature and then cooled in ice. Aqueous sodium hydroxide (10%, 15 mL) was added carefully. The solution was separated from the precipitate. The precipitate was washed with THF and ethyl acetate. The combined solutions were evaporated and the residue dissolved in ethyl acetate (80 mL) and washed with brine. Evaporation and chromatography on silica gel with 20% and 50% ethyl acetate in toluene gave 1.22 g product, 63% yield: 1H NMR (CDCl3) δ 7.2-7.4 (m), 6.4 (s, 1H), 6.0 (s, 1H), 3.75 (t, 2H), 2.7 (t 2H). This material (386 mg, 1.0 mmol), methyl salicylate (183 mg, 1.2 mmol) and triphenylphosphine (314 mg, 1.2 mmol) were dissolved in THF (5 mL). N,N,N′,N′-tetramethylazo-dicarboxamide (206 mg, 1.2 mmol) was added and the solution was left overnight. The mixture was filtered and the filtrate was purified by flash-chromatography on silica gel using toluene and ethyl acetate/toluene as eluent. Yield 418 mg, 80%: 1H NMR (CDCl3) δ 7.74 (d, 1H), 7.4 (m, 1H), 7.18-7.38 (m), 6.95 (m, 2H), 6.5 (s, 1H), 6.15 (s, 1H), 4.2 (q, 2H), 3.8 (s, 3H), 3.0 (t, 2H). MS-ES (pos) m/z 521.2. Methyl 2-{2-[2-(tritylamino)-1,3-thiazol-4-yl]ethoxy}benzoate (343 mg, 0.656 mmol) was mixed with methanol: conc. HCl 9:1 (50 mL) and heated to 60° C. for 24 h. The mixture was concentrated to 10 mL, filtered and the filtrate was made alkaline with aqueous sodium carbonate (1 M). The solution was extracted with chloroform. Evaporation gave a product that was purified by flash-chromatography on silica gel using 0-2% methanol/DCM as eluent. Yield 128 mg, 70% (partially crystalline): 1H NMR (CDCl3) δ 7.75 (d, 1H), 7.42 (t, 1H), 6.96 (m, 2H), 6.35 (s, 1H), 4.29 (t, 2H), 3.85 (s, 3H), 3.05 (t, 2H). MS-ES (pos) m/z 279.3.

reactant | methyl salicylate | 1.2 mmol, 183 mg | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | triphenylphosphine | 1.2 mmol, 314 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N,N,N′,N′-tetramethylazo-dicarboxamide | 1.2 mmol, 206 mg | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
reactant | Methyl 2-{2-[2-(tritylamino)-1,3-thiazol-4-yl]ethoxy}benzoate | 0.656 mmol, 343 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)CCOC1=C(C(=O)OC)C=CC=C1 | C32H28N2O3S
reactant | HCl | 50 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | Methyl 2-[2-(2-amino-1,3-thiazol-4-yl)ethoxy]benzoate | NC=1SC=C(N1)CCOC1=C(C(=O)OC)C=CC=C1 | C13H14N2O3S
